US05811433
e. 5,6Dichloro-4-hydroxy-nicotinic acid
114 g (0.483 mol) of ethyl 5,6-dichloro-4-hydroxy-nicotinate are boiled under reflux in 1200 ml of water with 58 g (1.03 mol) of potassium hydroxide for two hours. The cooled mixture is stirred with activated charcoal and filtered, and the filtrate is brought to a pH of 1 with half-concentrated hydrochloric acid, while cooling with ice. The product which precipitates is isolated, washed with water and dried.

reactant | ethyl 5,6-dichloro-4-hydroxy-nicotinate | 0.483 mol, 114 g | ClC=1C(=NC=C(C(=O)OCC)C1O)Cl | C8H7Cl2NO3
reactant | potassium hydroxide | 1.03 mol, 58 g | [OH-].[K+]
reactant | charcoal | C | CH4
solvent | water | 1200 ml | O | H2O
product | 5,6Dichloro-4-hydroxy-nicotinic acid | ClC=1C(=NC=C(C(=O)O)C1O)Cl | C6H3Cl2NO3
